US08563780B2
A mixture of 52.2 g (0.592 mol) of 2-methyl-3-buten-2-ol (MBE) and of 331.9 g (4.44 mol) of isopropenyl methyl ether (IPM) was stirred by a magnetic stirrer in a 1 L 3-neck round bottomed flask under argon at a temperature of −30° C. 3.72 g of a catalyst solution consisting of 17.7 weight-% H3PO4 in acetone (=1 mol-% relative to MBE) were added at once with the help of a volume adjustable pipette with disposable tip. The clear and colourless solution was stored for 72 hours at a temperature of −26° C. in a deep freezer. Under stirring and argon the solution was set basic by addition of 1.81 g (2.485 ml, 0.018 mol) of triethylamine and allowed to reach room temperature (22° C.). The reaction mixture was then concentrated on a rota-vapor under a pressure of 75 mbar at a temperature not exceeding 22-25° C. 94.9 g of crude 3-(1-methoxy-1-methyl-ethoxy)-3-methyl-but-1-ene, including 2.4 g of triethylammonium phosphate, were obtained containing 88.4 g of MMMB or MBE-IPM-adduct (yield: 87.2% relative to MBE).

reactant | 2-methyl-3-buten-2-ol | 0.592 mol, 52.2 g | CC(C)(C=C)O | C5H10O
reactant | isopropenyl methyl ether | 4.44 mol, 331.9 g | COC(=C)C | C4H8O
reactant | H3PO4 | OP(=O)(O)O | H3O4P
reactant | acetone | 1 mol | CC(=O)C | C3H6O
reactant | triethylamine | 0.018 mol, 2.485 ml, 1.81 g | C(C)N(CC)CC | C6H15N
product | MBE IPM | yield: 87.2% | CC(C)(C=C)O.COC(=C)C | InChI=1S/C5H10O.C4H8O/c1-4-5(2,3)6;1-4(2)5-3/h4,6H,1H2,2-3H3;1H2,2-3H3
